US07838499B2
Preparation of 4-bromo-1-chloro-2-(4-(3-(vinyloxy)propyl)benzyl)benzene (Intermediate DG)
To a solution of 3-(4-(5-bromo-2-chlorobenzyl)phenyl)propan-1-ol (0.88 g, 2.59 mmol), [IrCl(cod)]2 (17 mg, 0.026 mmol) and sodium carbonate (0.17 g, 1.56 mmol) in toluene (5 mL) was added vinyl acetate (0.48 mL, 5.18 mmol) under argon. The reaction mixture was heated to 100° C. and stirred for 5 h. The solution was allowed to cool to room temperature, and then diluted with 60 mL of ethyl acetate. The mixture was washed with water (20 mL) and then with brine (20 mL), and dried over sodium sulfate. The residue was concentrated and purified by column chromatography (eluent EA:PE:Et3N=1:30:0.01) to provide 0.75 g of white solid. 1H NMR (CDCl3, 400 MHz): δ 7.29˜7.24 (m, 3H), 7.15 (d, 2H), 7.11 (d, 2H), 6.50 (dd, J=14.4 and 6.8 Hz, 1H), 4.18 (dd, J=14.4 and 2.0 Hz, 1H), 4.04 (s, 2H), 4.00 (dd, J=6.8 and 2.0 Hz, 1H), 3.71 (t, J=6.4 Hz, 2H), 2.70 (t, J=7.2 Hz, 2H), 2.06˜1.96 (m, 2H).

reactant | 3-(4-(5-bromo-2-chlorobenzyl)phenyl)propan-1-ol | 2.59 mmol, 0.88 g | BrC=1C=CC(=C(CC2=CC=C(C=C2)CCCO)C1)Cl | C16H16BrClO
reactant | sodium carbonate | 1.56 mmol, 0.17 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | vinyl acetate | 5.18 mmol, 0.48 mL | C(C)(=O)OC=C | C4H6O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 4-bromo-1-chloro-2-(4-(3-(vinyloxy)propyl)benzyl)benzene | 0.75 g | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)CCCOC=C | C18H18BrClO
